data/oMe_Silver.jsonl
{"reaction_id": "NR-225_1-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Pinnick-Lindgren Oxidation","reactants_smiles": ["C(c1ccc(C(F)(F)F)cc1)C=O","Cl(=O)([O-])"],"products_smiles": ["C(c1ccc(C(F)(F)F)cc1)C(=O)O"],"conditions": "NaH2PO4, t-BuOH, 2-methyl-2-butene","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)C(O)O(Cl=O)","step_weight": 0,"rationale": "The aldehyde carbonyl is highly electrophilic due to the polarized C=O bond, enabling nucleophilic attack by chlorite under buffered conditions, forming a tetrahedral intermediate stabilized by adjacent oxygen lone pairs."},{"step": 2,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)C(=O)O","step_weight": 0,"rationale": "Rearrangement proceeds as electron shifts favor formation of the more stable carboxylate, driven by strong thermodynamic stability of the C=O in acids and elimination of HClO as a good leaving group."}],"description": "In the Pinnick-Lindgren oxidation, chlorite ion selectively oxidizes aldehydes to carboxylic acids under mild, buffered conditions. Nucleophilic attack on the electrophilic carbonyl initiates the process, followed by rearrangement to release oxidized product while minimizing side reactions via chlorine scavenging."}
{"reaction_id": "NR-001_1-c1ccccc1_2-C(Cl)(Cl)Cl","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(c1ccccc1)(C(Cl)(Cl)Cl)C=O","C(c1ccccc1)(C(Cl)(Cl)Cl)C=O"],"products_smiles": ["C(c1ccccc1)(C(Cl)(Cl)Cl)C(O)C(c1ccccc1)(C(Cl)(Cl)Cl)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C(Cl)(Cl)Cl)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C(Cl)(Cl)Cl)C([O-])C(c1ccccc1)(C(Cl)(Cl)Cl)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C(Cl)(Cl)Cl)C(O)C(c1ccccc1)(C(Cl)(Cl)Cl)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NR-105_1-C_2-S(=O)(=O)C_3-S(=O)(=O)N(C)C_4-C#CC2CCCCC2_5-c2ccccc2","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(C#CC2CCCCC2)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c(C)c1)\\C(=O)Oc2ccccc2"],"products_smiles": ["c1c(C(=O)Oc2ccccc2)[nH]c2c1c(C#CC2CCCCC2)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c2C"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(C#CC2CCCCC2)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c(C)c1)\\C(=O)Oc2ccccc2","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "c2ccccc2OC(=O)C1C=C2C(=[n]1)c(c(c(c2C#CC2CCCCC2)S(=O)(=O)N(C)C)S(=O)(=O)C)C","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)Oc2ccccc2)[nH]c2c1c(C#CC2CCCCC2)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c2C","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
